US08022222B2
Using the method of Example 3, Step A, 2-methoxyphenol (2.35 g, 18.9 mmol), 60% sodium hydride in mineral oil (0.757 g, 18.9 mmol), and 2-chloro-4-nitropyridine (3.00 g, 18.9 mmol) were reacted to provide 2-chloro-4-(2-methoxyphenoxy)pyridine (4.32 g, 96.9% yield) as a white powder. 1H NMR (CDCl3) δ 8.20 (d, 1H), 7.27 (m, 1H), 7.10 (d, 1H), 6.99-7.06 (m, 2H), 6.72-6.75 (m, 2H), 3.79 (s, 3H).

reactant | 2-methoxyphenol | 18.9 mmol, 2.35 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 18.9 mmol, 3.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(2-methoxyphenoxy)pyridine | 4.32 g, 96.9% yield | ClC1=NC=CC(=C1)OC1=C(C=CC=C1)OC | C12H10ClNO2
